US05840751
5,6-Dihydro-4-hydroxy-6,6-diphenyl-3-phenylthio-2H-pyran-2-one
The title compound was prepared as described in General Method 6 from 0.96 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (prepared in example AAA), 1.0 mmol of benzenethiol, and 1.0 mmol of piperidine in 20 mL of dichloromethane. The product was triturated with hexane:ether (1:1) to afford a solid (m.p. 78°-80° C.). 1H NMR (DMSO-d6) δ 3.37 (bs, 2 H), 6.35 (m, 2 H), 6.93 (m, 3 H), 7.29-7.49 (m, 10 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 0.96 mmol | BrC=1C(OC(CC1O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H13BrO3
reactant | benzenethiol | 1.0 mmol | C1(=CC=CC=C1)S | C6H6S
reactant | piperidine | 1.0 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5,6-Dihydro-4-hydroxy-6,6-diphenyl-3-phenylthio-2H-pyran-2-one | OC1=C(C(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)SC1=CC=CC=C1 | C23H18O3S
